US07776875B2
Preparation of Racemic (2′S,3S,4′R)-6-chloro-4′-{5-chloro-2-[1-(4-fluoro-benzenesulfonylaminocarbonyl)-cyclobutoxy]-phenyl}-2′-(5-fluoro-2-methyl-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
A solution of racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-hydroxycarbonyl-cyclobutoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (50 mg, 0.086 mmol) and CDI (28 mg, 0.17 mmol) in DMF (0.5 mL) was heated at 60° C. for 30 min, and then cooled to root temperature. To this solution was added a mixture of 4-fluoro-benzenesulfonamide (175 mg, 1 mmol) and NaH (40 mg, 60%, 1 mmol) in DMF (1 mL). The resulting mixture was stirred at room temperature for 10 min, purified by prep-HPLC to give the title compound as a white solid (20 mg).

reactant | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-hydroxycarbonyl-cyclobutoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.086 mmol, 50 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC1(CCC1)C(=O)O)=O)C1=C(C=CC(=C1)F)C)=O | C30H25Cl2FN2O5
reactant | CDI | 0.17 mmol, 28 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-fluoro-benzenesulfonamide | 1 mmol, 175 mg | FC1=CC=C(C=C1)S(=O)(=O)N | C6H6FNO2S
reactant | NaH | 1 mmol, 40 mg | [H-].[Na+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | Racemic (2′S,3S,4′R)-6-chloro-4′-{5-chloro-2-[1-(4-fluoro-benzenesulfonylaminocarbonyl)-cyclobutoxy]-phenyl}-2′-(5-fluoro-2-methyl-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 20 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC1(CCC1)C(=O)NS(=O)(=O)C1=CC=C(C=C1)F)=O)C1=C(C=CC(=C1)F)C)=O | C36H29Cl2F2N3O6S
